US06803457B1
(5-Chloro-2-cyanomethoxy-benzyl)-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (0.45 g, 2.03 mmol) was added to a solution of (2-aminomethyl-4-chloro-phenoxy)-acetonitrile (0.2 g, 1.01 mmol) and triethylamine (0.57 mL, 4 mmol) in dry THF (10 mL) at ambient temperature. After 4 hours the mixture was diluted with ethyl acetate (30 mL) washed with 1N HCl solution (1×), sat. sodium bicarbonate solution (1×) and brine (1×), dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (5-20% ethyl acetate/hexanes) to afford 218 mg (74%) of the title compound as a colorless solid.

reactant | Di-tert-butyl dicarbonate | 2.03 mmol, 0.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2-aminomethyl-4-chloro-phenoxy)-acetonitrile | 1.01 mmol, 0.2 g | NCC1=C(OCC#N)C=CC(=C1)Cl | C9H9ClN2O
reactant | triethylamine | 4 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (5-Chloro-2-cyanomethoxy-benzyl)-carbamic acid tert-butyl ester | 218 mg, 74% | C(C)(C)(C)OC(NCC1=C(C=CC(=C1)Cl)OCC#N)=O | C14H17ClN2O3
